US07888364B2
5 g of 4-fluorobenzonitrile was used in Procedure Q with 2-mercaptoethanol to afford 4-(2-hydroxyethylthio)benzonitrile. 900 mg of 4-(2-hydroxyethylthio)benzonitrile was reacted via Procedure T to give 4-(2-hydroxyethylthio)benzoic acid. 1.0 g of 4-(2-hydroxyethylthio)benzoic acid was reacted via Procedure R to give 4-(2-hydroxyethylsulfonyl)benzoic acid. 80 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(2-hydroxyethylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-hydroxyethylsulfonyl)benzamide. MS (Q1) 417.0 (M)+.

reactant | 4-fluorobenzonitrile | 5 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 2-mercaptoethanol | SCCO | C2H6OS
product | 4-(2-hydroxyethylthio)benzonitrile | OCCSC1=CC=C(C#N)C=C1 | C9H9NOS
